US08227462B2
Imidazole-1-carboxylic acid [5-(2-diethylamino-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-amide
Carbonyl diimidazole (437 mg) is added to a solution of [4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-diethyl-amine (355 mg) and triethylamine (207 μl) in DMF (1.4 ml) at room temperature and then heated for 18 hours at 80° C. The reaction mixture is evaporated and triturated with chloroform. The title compound is isolated by filtration.

reactant | Carbonyl diimidazole | 437 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | [4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-diethyl-amine | 355 mg | NC=1SC(=C(N1)C)C1=NC(=NC=C1)N(CC)CC | C12H17N5S
reactant | triethylamine | 207 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 1.4 ml | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid [5-(2-diethylamino-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-amide | C(C)N(C1=NC=CC(=N1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C)CC | C16H19N7OS
